US05405861
2',4'-Difluoro-2-hydroxypropiophenone (61 g) was dissolved in methylene chloride (500 ml), to which was added, under ice-cooling, p-toluene sulfonic acid.hydrate (1.0 g). To the mixture was added, under ice-cooling while stirring, 3,4-dihydro-2H-pyran (41.4 g) during 10 minutes. The mixture was stirred, under ice-cooling, for one hour, to which was added a 5% aqueous solution of sodium hydrogen carbonate (240 ml). The mixture was stirred for 10 minutes under ice-cooling. The methylene chloride layer was separated and dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residual oily product was purified by means of a silica gel column chromatography (hexane: ethyl acetate=5:1) to afford 2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone (86.5 g) as a pale yellow oily product.

reactant | 2',4'-Difluoro-2-hydroxypropiophenone | 61 g | FC1=C(C=CC(=C1)F)C(C(C)O)=O | C9H8F2O2
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3,4-dihydro-2H-pyran | 41.4 g | O1CCCC=C1 | C5H8O
reactant | sodium hydrogen carbonate | 240 ml | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 2',4'-difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)propiophenone | 86.5 g | FC1=C(C=CC(=C1)F)C(C(C)OC1OCCCC1)=O | C14H16F2O3
